US07259165B2
Preparation of 1-Methyl-4-(5-nitropyridin-2-yl)piperazine
A stirred mixture of 2-chloro-5-nitropyridine (3.16 g, 20.0 mmol), 1-methyl-piperazine (2.00 g, 2.00 mmol) and potassium carbonate (2.76 g, 20.0 mmol) in DMF is heated at 100° C. for 24 h, cooled, poured into water and extracted with CH2Cl2. The combined extracts are dried over MgSO4 and concentrated in vacuo. The resultant residue is purified by flash chromatography (SiO2, 2% ammonia in 10:90 ethanol:ethyl acetate as eluent) affords the title compound as an off-white solid, 4.0 g (90% yield), identified by NMR analysis.

reactant | 2-chloro-5-nitropyridine | 20.0 mmol, 3.16 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | 1-methyl-piperazine | 2.00 mmol, 2.00 g | CN1CCNCC1 | C5H12N2
reactant | potassium carbonate | 20.0 mmol, 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-Methyl-4-(5-nitropyridin-2-yl)piperazine | 90% yield | CN1CCN(CC1)C1=NC=C(C=C1)[N+](=O)[O-] | C10H14N4O2
